*============================================
* Phase-Shifted Full Bridge DC-DC Converter (Corrected)
* Input: 24VDC  Output: 12VDC @ 10A
*============================================

*----- Parameters -----
.PARAM PhaseShift = 1.5u
.PARAM Rload_val = 1.2

* Power Supply
V_in Vin 0 DC 24

*----- Full Bridge Primary -----
* Leading Leg (Q1 high, Q3 low) - Node A
S_Q1 Vin A G1 0 SW
S_Q3 A 0 G3 0 SW

* Lagging Leg (Q2 high, Q4 low) - Node B  
S_Q2 Vin B G2 0 SW
S_Q4 B 0 G4 0 SW

.MODEL SW SW (Ron=5m Roff=10Meg Vt=5 Vh=0.5)

* Resonant Inductor (between A and B)
Lr A B 15uH

* Transformer Primary (connected to node A)
Lp A Prim_N 100uH

* Transformer Secondary
Ls Sec_P Sec_N 100uH
K_tr Lp Ls 0.995

*----- Secondary Rectifier (Full Bridge) -----
D1 Sec_P Out_P DSchottky
D2 Out_N Sec_P DSchottky
D3 Sec_N Out_P DSchottky
D4 Out_N Sec_N DSchottky

.MODEL DSchottky D (Is=1e-4 Rs=0.02 n=1.2)

*----- Output Filter -----
Lf Out_P Load_P 50uH
Cout Load_P Load_N 1000u
Rload Load_P Load_N {Rload_val}

*----- Gate Drives (Phase Shifted) -----
* Period = 10us (100kHz)
* Q1, Q3: Leading leg - complementary
* Q2, Q4: Lagging leg - complementary, phase shifted

Vg1 G1 0 PULSE(0 12 0n 50n 50n 4.9u 10u)
Vg3 G3 0 PULSE(12 0 0n 50n 50n 4.9u 10u)

* Phase shifted lagging leg
Vg2 G2 0 PULSE(0 12 {PhaseShift} 50n 50n 4.9u 10u)
Vg4 G4 0 PULSE(12 0 {PhaseShift} 50n 50n 4.9u 10u)

*----- Parameter Sweep -----
.STEP PARAM PhaseShift 0.5u 4u 0.5u

*----- Measurements -----
.MEAS TRAN Vout AVG V(Load_P,Load_N)
.MEAS TRAN Iout AVG I(Rload)

*----- Simulation -----
.TRAN 0 15m 0 100n STARTUP

.END