* PSFB DC-DC Converter
* Input: 24V, Output: 12V/10A
* Switching Frequency: 100kHz

Vin Vin 0 DC 24

* Full Bridge Switches (4x MOSFETs)
M1 Vin Q1g Switch1 Nch Rds=20m
M2 Vin Q2g Switch2 Nch Rds=20m  
M3 0 Q3g Switch1 Pch Rds=20m
M4 0 Q4g Switch2 Pch Rds=20m

* Anti-parallel body diodes (internal to MOSFET model)

* Resonant Inductor
Lr Switch1 Switch2 20uH

* High Frequency Transformer (1:1 turns ratio)
K1 Lp Ls 0.9999
Lp Switch1 Switch3 50uH
Ls Out_p Out_n 50uH

* Output Filter
Lf Out_p Load_p 100uH
Cf Load_p 0 220u
Rload Load_p 0 1.2

* Gate Drive Sources (Phase Shift Control)
* Q1 & Q3 = Leading Leg, Q2 & Q4 = Lagging Leg
* Q2 is phase-shifted relative to Q1

Vg1 Q1g 0 PULSE(0 12 0 10n 10n 5u 10u)
Vg3 Q3g 0 PULSE(12 0 0 10n 10n 5u 10u)
Vg2 Q2g 0 PULSE(0 12 2.5u 10n 10n 5u 10u)  ; 90-degree phase shift
Vg4 Q4g 0 PULSE(12 0 2.5u 10n 10n 5u 10u)

* Control to switch connection via voltage controlled switches
S1 Switch1 Q1g 0 SW
S2 Switch2 Q2g 0 SW
S3 Switch1 Q3g 0 SW
S4 Switch2 Q4g 0 SW

* Switch model
.MODEL SW SW Ron=1m Roff=10Meg Vt=5

* Measurement statements
.OPTIONS POST

* Transient Analysis
.TRAN 0 20m 0 1n

* Control logic for phase shift (using behavioral modeling)
* This creates proper 4-switch drive with deadtime

* Output voltage measurement
.MEAS TRAN Vout AVG V(Load_p)

* Efficiency measurement
.MEAS TRAN Pin AVG V(Vin)*I(Vin)
.MEAS TRAN Pout AVG V(Load_p)*I(Rload)
.MEAS TRAN Eff PARAM Pout/Pin*100

.PRINT TRAN V(Load_p) V(Switch1) I(Lr)

.END
