*============================================
* Phase-Shifted Full Bridge DC-DC Converter
* Input: 24VDC  Output: 12VDC @ 10A
* With Parameter Sweep for Dynamic Analysis
*============================================

*----- Define Parameters -----
.PARAM Vin_val = 24
.PARAM PhaseShift = 2.5u    ; 可调整移相时间
.PARAM Rload_val = 1.2      ; 可调整负载电阻
.PARAM Lr_val = 12uH        ; 可调整谐振电感

* Power Supply
V_in Vin 0 DC {Vin_val}

*----- Primary Side -----
* Leading Leg Switches
S_Lead_H Vin G1 Switch1 0 SW
S_Lead_L Switch1 G3 0 0 SW

* Lagging Leg Switches - Phase Shifted
S_Lag_H Vin G2 Switch2 0 SW
S_Lag_L Switch2 G4 0 0 SW

.MODEL SW SW (Ron=10m Roff=10Meg Vt=5)

* Resonant Inductor
Lr Switch1 Switch2 {Lr_val}

* Transformer
Lp Switch1 P_node 60uH
Ls S_node Out_P 60uH
K_tr Lp Ls 0.998

*----- Secondary Side -----
D1 Out_P S_node DSchottky
D2 S_node Out_N DSchottky

.MODEL DSchottky D (Is=1e-4 Rs=0.05 n=1.5)

* Output Filter
Lf Out_P Load_P 40uH
Cout Load_P Load_N 470u
Rload Load_P Load_N {Rload_val}

*----- Gate Drives -----
* 使用参数化的移相时间
Vg1 G1 0 PULSE(0 15 0n 10n 10n 4.5u 10u)
Vg3 G3 0 PULSE(15 0 0n 10n 10n 4.5u 10u)

Vg2 G2 0 PULSE(0 15 {PhaseShift} 10n 10n 4.5u 10u)
Vg4 G4 0 PULSE(15 0 {PhaseShift} 10n 10n 4.5u 10u)

*----- Parameter Sweep -----
* 扫描移相角度 (0.5u ~ 4.5u)
.STEP PARAM PhaseShift 0.5u 4.5u 0.5u

* 或者扫描负载电阻 (取消注释启用)
*.STEP PARAM Rload_val 0.5 5 0.5

* 或者扫描输入电压 (取消注释启用)
*.STEP PARAM Vin_val 20 30 2

*----- Measurements -----
.MEAS TRAN Voutput AVG V(Load_P,Load_N)
.MEAS TRAN Ioutput AVG I(Rload)
.MEAS TRAN Efficiency PARAM Voutput*Ioutput/V(Vin)*I(V_in)*100

*----- Simulation Control -----
.TRAN 0 20m 0 50n STARTUP

.END